US04734425
A. 5-Phenylpentanoyl glycine ethyl ester
5-Phenylvaleric acid (2.67 g, 15 mmol) in distilled THF was reacted with CDI (15 mmol) followed by glycine ethyl ester.HCl (15 mmol) and C2H5)3N (15 mmol) as described in Example 56 Part A. The crude material (3.25 g, 82%) was used without purification.

reactant | 5-Phenylvaleric acid | 15 mmol, 2.67 g | C1(=CC=CC=C1)CCCCC(=O)O | C11H14O2
reactant | CDI | 15 mmol | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | glycine ethyl ester | C(C)OC(CN)=O | C4H9NO2
reactant | HCl | 15 mmol | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 5-Phenylpentanoyl glycine ethyl ester | C(C)OC(CNC(CCCCC1=CC=CC=C1)=O)=O | C15H21NO3
